US06706731B2
Under a N2 atmosphere, 160 mg (0.57 mmol) of 4-[2-(2-methoxy-pyridin-4-yl)-ethyl]-2H-isoquinolin-1-one in 3.7 ml of acetonitrile are mixed with 131 μl (1.43 mmol) of phosphorus oxychloride and 0.28 ml of 4 N HCl in dioxane and stirred for 7 h at 65° C. After cooling to RT, water/NH3 conc. 10:1 and EtOAc are added, the water phase is separated and extraction effected twice with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and concentrated by evaporation to form 1-chloro-4-[2-(2-methoxy-pyridin-4-yl)-ethyl]-isoquinoline; 1H NMR (DMSO-d6) δ8.30 (d, 1H), 8.27 (d, 1H), 8.13 (s, 1H), 8.03 (d, 1H), 7.94 (t, 1H), 7.85 (t, 1H), 6.90 (d, 1H), 6.73 (s, 1H), 3.80 (s, H3C), 3.32 (t, H2C), 2.95 (t, H2C).

reactant | 4-[2-(2-methoxy-pyridin-4-yl)-ethyl]-2H-isoquinolin-1-one | 0.57 mmol, 160 mg | COC1=NC=CC(=C1)CCC1=CNC(C2=CC=CC=C12)=O | C17H16N2O2
reactant | phosphorus oxychloride | 1.43 mmol, 131 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 4 N, 0.28 ml | Cl | ClH
reactant | water NH3 | O.N
solvent | acetonitrile | 3.7 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-chloro-4-[2-(2-methoxy-pyridin-4-yl)-ethyl]-isoquinoline | ClC1=NC=C(C2=CC=CC=C12)CCC1=CC(=NC=C1)OC | C17H15ClN2O
